US08236808B2
Step 2: ((R)-1-Aminomethyl-butyl)-carbamic acid tert-butyl ester
A mixture of [(R)-1-(1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-butyl]-carbamic acid tert-butyl ester (1.2 g, 3.61 mmol) and hydrazine monohydrate (1.0 mL, 20.6 mmol) in EtOH (25 mL) and DCM (75 mL) is stirred at RT for 48 h. The precipitated solid is removed by filtration and washed with DCM. The filtrate is concentrated in vacuo to afford the title compound as white solid that is used without further purification.

reactant | [(R)-1-(1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-butyl]-carbamic acid tert-butyl ester | 3.61 mmol, 1.2 g | C(C)(C)(C)OC(N[C@H](CCC)CN1C(C2=CC=CC=C2C1=O)=O)=O | C18H24N2O4
reactant | hydrazine monohydrate | 20.6 mmol, 1.0 mL | O.NN
solvent | EtOH | 25 mL | CCO | C2H6O
solvent | DCM | 75 mL | C(Cl)Cl | CH2Cl2
product | ((R)-1-Aminomethyl-butyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@H](CCC)CN)=O | C10H22N2O2
